US09029409B2
To a stirred solution of (2S,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxane-2-carboxylic acid (0.3 g, 0.632 mmol, Example #P.1) in DMF (2 mL) was added potassium carbonate (0.131 g, 0.948 mmol) followed by iodomethane (0.108 g, 0.759 mmol). The reaction mixture was stirred at RT for about 3 h. The reaction mixture was quenched with water (15 mL), the product separated as solids and collected by filtration, washed with water (10 mL) and dried under vacuum to obtain (2S,5R)-methyl 5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxane-2-carboxylate 0.270 g, (87%), ES-MS: m/z 489 (m+H)+, LC/MS (Table 1, method d) Rt=2.25 min.

reactant | (2S,5R)-5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxane-2-carboxylic acid | 0.632 mmol, 0.3 g | FC1=C(C=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NO[C@@H](C2)[C@@H]2OC[C@H](OC2)C(=O)O)C=C1)OC | C22H23FN4O7
reactant | potassium carbonate | 0.948 mmol, 0.131 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.759 mmol, 0.108 g | IC | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S,5R)-methyl 5-((S)-3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-1,4-dioxane-2-carboxylate | 0.270 g, 87% | FC1=C(C=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NO[C@@H](C2)[C@@H]2OC[C@H](OC2)C(=O)OC)C=C1)OC | C23H25FN4O7
